US06900217B2
A mixture of 3-amino-1-methyl-4-(2,4,6-trimethylphenyl)-1H-pyrrole-2-carbonitrile (2 mmol), methyl acetoacetate (4 mmol) and SnCl4 (4 mmol) in 1,2-dichloroethane was heated at reflux for about six hours until all the starting material were consumed. The mixture was quenched with acetone, basified with saturated NaHCO3, then filtered through Celite?. The filtrate was concentrated to dryness. The residue was quenched with water and extracted with chloroform. The chloroform layer was washed with brine, dried and concentrated to dryness to give 7-amino-1,5-dimethyl-3-(2,4,6-trimethyl-phenyl)-1H-pyrrolo[3,2-b]pyridine-6-carboxylic acid methyl ester. The product may be purified by trituration.

reactant | 3-amino-1-methyl-4-(2,4,6-trimethylphenyl)-1H-pyrrole-2-carbonitrile | 2 mmol | NC1=C(N(C=C1C1=C(C=C(C=C1C)C)C)C)C#N | C15H17N3
reactant | methyl acetoacetate | 4 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | SnCl4 | 4 mmol | Cl[Sn](Cl)(Cl)Cl
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 7-amino-1,5-dimethyl-3-(2,4,6-trimethyl-phenyl)-1H-pyrrolo[3,2-b]pyridine-6-carboxylic acid methyl ester | COC(=O)C=1C(=C2C(=NC1C)C(=CN2C)C2=C(C=C(C=C2C)C)C)N | C20H23N3O2
